US04617316
In a manner similar to Example 1, Step B, the reaction of 6.6 g (0.03 mole) of 2-(2-methoxy-4-nitrophenyl)thiophene, 13.65 g (0.24 mole) of iron powder and 25.2 g (0.42 mole) of glacial acetic acid in 36 ml of water produced 5.3 g of 3-methoxy-4-(thien-2-yl)aniline.

reactant | 2-(2-methoxy-4-nitrophenyl)thiophene | 0.03 mole, 6.6 g | COC1=C(C=CC(=C1)[N+](=O)[O-])C=1SC=CC1 | C11H9NO3S
reactant | acetic acid | 0.42 mole, 25.2 g | C(C)(=O)O | C2H4O2
solvent | water | 36 ml | O | H2O
catalyst | iron | 0.24 mole, 13.65 g | [Fe] | Fe
product | 3-methoxy-4-(thien-2-yl)aniline | 5.3 g | COC=1C=C(N)C=CC1C=1SC=CC1 | C11H11NOS
